US06727264B1
N-(3-{1-[3-(3-ACETYLPHENOXY)-3-(4-BROMOPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 3-acetylphenol: ESMS m/e: 576.9 (M+H)+.

reactant | N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C24H31BrN2O2
reactant | 3-acetylphenol | C(C)(=O)C=1C=C(C=CC1)O | C8H8O2
product | N-(3-{1-[3-(3-ACETYLPHENOXY)-3-(4-BROMOPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)(=O)C=1C=C(OC(CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)Br)C=CC1 | C32H37BrN2O3
